* Simple RC circuit for PSS testing
* RC circuit with periodic voltage source

V1 1 0 SIN(0 1 1e6)  ; 1MHz, 1V amplitude
R1 1 2 1k
C1 2 0 1n

.PSS 1u
.PRINT PSS V(2) I(V1)

.END

